US20010044538A1
To a solution of 4-methyl-2-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine (0.3 g, 1.43 mmol) in N-methylpyrrolidone (5 ml) was added 4-bromofluorobenzene (0.57 ml, 5.2 mmol), copper bromide (0-205 g, 1.43 mmol) and sodium carbonate (0.15 g, 1.43 mmol) and the reaction mixture was heated to 180° C. under argon. After 24 h, the reaction mixture was cooled and poured into 10% hydrochloric acid (50 ml). The solution was filtered through Celite® and the filtrate was neutralized to pH 7 with 10% sodium hydroxide. The solid was filtered off, dissolved in 80% methanol:methylene chloride and purified by preparatory thin layer chromatography to give 1-(4-fluorophenyl)-4-methyl-2-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine (0.03 g) as a tan solid.

reactant | 4-methyl-2-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 1.43 mmol, 0.3 g | CC1=C2C(=NC=C1)NC(=C2)C2=CC=NC=C2 | C13H11N3
reactant | 4-bromofluorobenzene | 5.2 mmol, 0.57 ml | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | sodium carbonate | 1.43 mmol, 0.15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | N-methylpyrrolidone | 5 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper bromide | 1.43 mmol, 0-205 g | [Cu](Br)Br
product | 1-(4-fluorophenyl)-4-methyl-2-(pyridin-4-yl)-1H-pyrrolo[2,3-b]pyridine | 0.03 g | FC1=CC=C(C=C1)N1C(=CC=2C1=NC=CC2C)C2=CC=NC=C2 | C19H14FN3
